US07064123B1
Synthesis of 2-(2-Methyl-propane-1-sulfonylmethyl)-4-morpholin-4-yl-4-oxo-butyric acid (28b)
4-Morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyric acid (10.90 g, 40.15 mmol) was dissolved in 100 mL dry EtOH and set to stir at room temperature. NaOH pellets (4.81 g, 120.45 mmol) were added in one portion, and the reaction mixture was allowed to stir for 10 minutes. 1-Bromo-2-methyl propane (5.0 g, 36.49 mmol) was then added, and the reaction mixture was allowed to stir at ambient temperature for 20 hours. Upon completion (LCMS), the reaction mixture was diluted with water and the pH was lowered to ˜pH2. The reaction mixture was then washed 3× with EtOAc. The organic phase was concentrated in vacuo and then diluted with 200 mL aqueous MeOH. Oxone (10.02 g, 14.57 mmol) was added in one portion and the reaction was stirred at room temperature for 4 hours. Conversion of sulfide to sulfone was monitored via LCMS. Upon completion, reaction was quenched by the addition of sodium thiosulfate. Salts were filtered, and the reaction mixture was washed 3× with ethyl acetate and dried over sodium sulfate. The organics were evaporated by vacuum under reduced pressure. Product was purified via HPLC. Yield: 1.1 g, 23.1%. m/z (LCMS) M+ 322.01, Rf=2.03. δH 12.6 (1H, br s), 3.5 (4H, m), 3.5 (1H, m), 3.4 (4H, m), 3.25 (2H, d), 3.0 (2H, m), 2.9 (2H, d), 2.4 (1H, m), 1.3 (6H, d d).

reactant | 4-Morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyric acid | 40.15 mmol, 10.90 g | N1(CCOCC1)C(CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)=O | C16H21NO6S
reactant | NaOH | [OH-].[Na+]
reactant | 1-Bromo-2-methyl propane | 36.49 mmol, 5.0 g | BrCC(C)C | C4H9Br
reactant | Oxone | 14.57 mmol, 10.02 g | OOS(=O)[O-].[K+]
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | water | O | H2O
product | 2-(2-Methyl-propane-1-sulfonylmethyl)-4-morpholin-4-yl-4-oxo-butyric acid | CC(CS(=O)(=O)CC(C(=O)O)CC(=O)N1CCOCC1)C | C13H23NO6S
